US05696054
Preparation of 6-Trifluoromethyl-3-[1-methyl-1-(3,5-dichlorophenyl)ethyl]-5-phenyl-2,3-dihydro-4H-1,3-oxazin-4-one (Compound No. 49) (Method B)
Ethyl 2-trifluoroacetyl-2-phenylacetate (1.30 g) and N-methylene-1-methyl-1-(3,5-dichlorophenyl)ethylamine (1.19 g) were mixed, and xylene (10 ml) was added thereto. The mixture was allowed to react by refluxing for 30 minutes. The solvent was removed by evaporation, and the crude product was recrystallized from a mixture of hexane and ethyl acetate to afford the captioned compound (1.80 g, yield 84%).

reactant | Ethyl 2-trifluoroacetyl-2-phenylacetate | 1.30 g | FC(C(=O)C(C(=O)OCC)C1=CC=CC=C1)(F)F | C12H11F3O3
reactant | N-methylene-1-methyl-1-(3,5-dichlorophenyl)ethylamine | 1.19 g | C=NC(C)(C1=CC(=CC(=C1)Cl)Cl)C | C10H11Cl2N
solvent | xylene | 10 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 6-Trifluoromethyl-3-[1-methyl-1-(3,5-dichlorophenyl)ethyl]-5-phenyl-2,3-dihydro-4H-1,3-oxazin-4-one | 1.80 g, yield 84% | FC(C1=C(C(N(CO1)C(C)(C1=CC(=CC(=C1)Cl)Cl)C)=O)C1=CC=CC=C1)(F)F | C20H16Cl2F3NO2
